US06013810
2,2,6,6-Tetra(t-butoxyethyl)4-iodo-benzo[1,2-d:4,5-d']bis(1,3) dithiole
A dry flask under argon was charged with 2,2,6,6-tetra(t-butoxyethyl)benzo[1,2-d:4,5-d']bis(1,3)dithiole (60.0 g, 95.08 mmol) and dry tetrahydroturan (2000 ml). The mixture was cooled to -20° C. and n-Butyl lithium (76 ml of a 2.5 M solution in hexane, 0.19 mol) was added over 3 minutes. The mixture was stirred for 20 minutes at -20° C. and then a solution of iodine (120 g, 0.475 mol) in tetrahydroturan (500 ml) was added. The reaction mixture was poured into an aqueous sodium bisulphite solution and extracted with diethyl ether. The organic phase was washed once with an aqueous solution of sodium bisulphite and once with brine, dried (MgSO4) and evaporated.

reactant | 2,2,6,6-tetra(t-butoxyethyl)benzo[1,2-d:4,5-d']bis(1,3)dithiole | 95.08 mmol, 60.0 g | C(C)(C)(C)OCCC1(SC2=C(S1)C=C1C(SC(S1)(CCOC(C)(C)C)CCOC(C)(C)C)=C2)CCOC(C)(C)C | C32H54O4S4
reactant | iodine | 0.475 mol, 120 g | II | I2
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
product | 2,2,6,6-Tetra(t-butoxyethyl)4-iodo-benzo[1,2-d:4,5-d']bis(1,3) dithiole | C(C)(C)(C)OCCC1(SC2=C(S1)C(=C1C(SC(S1)(CCOC(C)(C)C)CCOC(C)(C)C)=C2)I)CCOC(C)(C)C | C32H53IO4S4
